US08242130B2
To a solution of 2′-hydroxy-5′-bromoacetophonone (10 g, 46.5 mmol) in carbon tetrachloride (60 mL) at reflux was added 70% nitric acid (5.2 mL, 79.6 mmol). The reaction mixture was stirred at reflux for 40 min. and then cooled to rt. The resulting solid was filtered off and washed with water and hexanes to provide 2′-hydroxy-3′-nitro-5′-bromoacetophonone (10.19 g, 84%). To a solution of 3-fluoro-4-hydroxybenzoic acid (3.0 g, 19.2 mmol) in pyridine (20 mL) and dichloromethane (50 mL) was added acetyl chloride (1.8 mL, 25 mmol) and the reaction mixture was stirred at rt for 1 h. The reaction mixture was washed with HCl (1 N, 2×100 mL), and concentrated to afford 3-fluoro-4-acetoxybenzoic acid (3.18 g, 83%). To a solution of 3-fluoro-4-acetoxybenzoic acid (3.18 g, 16.1 mmol) in dichloromethane (100 mL) was added oxalyl chloride (2.1 mL, 24.0 mmol) and DMF (0.2 mL) sequentially. The resulting mixture was stirred at rt for 1 h and then concentrated to afford the corresponding acid chloride. A mixture of the acid chloride, 2′-hydroxy-3′-nitro-5′-bromoacetophonone (4.17 g, 16.1 mmol) and triethylamine (8.9 mL, 64.2 mmol) in dichloromethane (100 mL) was stirred at rt for 1 h and then concentrated. The residue was re-dissolved in THF (100 mL) and mixed with potassium tert-butoxide (4.0 g, 35.3 mmol). The reaction was stirred at rt for 16 h and then quenched by adding water (100 mL). The mixture was extracted with dichloromethane (3×100 mL) and concentration to afford the crude diketone as a yellow solid. This solid was re-dissolved in AcOH (100 mL) and HCl (conc., 5 mL) and the mixture was stirred at reflux for 20 h. The reaction was quenched with water (100 mL), extracted with dichloromethane (3×100 mL) and concentrated. A solution of the resulting residue in MeOH (50 mL) and water (50 mL) was mixed with potassium carbonate (2 g) and stirred at rt for 2 h. MeOH was removed and the aqueous layer was acidified with HCl (1 N) to pH=5. The solid was filtered off and washed with water, acetone, and dichloromethane sequentially to provide a solid of the flavone analog (1.85 g, 30% five steps combined). To a solution of the flavone analog (1.85 g, 4.87 mmol) in pyridine (50 mL) and dichloromethane (100 mL) at rt was added acetyl chloride (1.1 mL, 14.6 mmol) and the reaction mixture was stirred at rt for 16 h. The reaction mixture was washed with HCl (1 N, 2×100 mL), and concentrated to afford a solid residue, which was purified by column chromatography (hexane:EtOAc 2:1). The resulting solid was re-crystallized from EtOAc and hexanes to afford 4-(6-bromo-8-nitro-4-oxo-4H-chromen-2-yl)-2-fluorophenyl acetate (1.1 g, 54%) as a light yellow solid. MS (ES) m/z: 423.78, 421.77; Mp. 236.2-238.5° C.

reactant | nitric acid | 79.6 mmol, 5.2 mL | [N+](=O)(O)[O-] | HNO3
reactant | 3-fluoro-4-hydroxybenzoic acid | 19.2 mmol, 3.0 g | FC=1C=C(C(=O)O)C=CC1O | C7H5FO3
reactant | acetyl chloride | 25 mmol, 1.8 mL | C(C)(=O)Cl | C2H3ClO
solvent | carbon tetrachloride | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-fluoro-4-acetoxybenzoic acid | 3.18 g, 83% | FC=1C=C(C(=O)O)C=CC1OC(C)=O | C9H7FO4
